### PR TITLE
Adhering to comments coding conventions (partially)

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 1]
```diff
@@ -3,12 +3,13 @@ From stdpp Require Import prelude.
 From VLSM.Lib Require Import ListExtras.
 From VLSM.Core Require Import VLSM VLSMProjections Validator Composition.
 
-(** * State-annotated VLSMs
+(**
+  * State-annotated VLSMs
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:7]: @DafinaTrufas This is wrong, as you shouldn't treat section headers like ordinary comments. The same goes for subheaders (`**`), subsubheaders (`***`) etc.

**Review by wkolowski — CHANGES_REQUESTED** [review]

**Comment by wkolowski** [comment]
@DafinaTrufas Besides fixing the section headers, maybe you should write some comments for the awk script.

File: scripts/out.log [hunk 2]
```diff
@@ -0,0 +1,14 @@
...
+  preserved by VLSM projections.
+*)
+
+(** wrffg *)
+
+  vevfdgv
+
+  hbdmjk
+
+*)
```
Comment (wkolowski) [inline scripts/out.log:14]: What is this file doing? Looks like it should not be committed.

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 3]
```diff
@@ -485,17 +489,18 @@ Qed.
...
-[fixed_non_byzantine_pre_loaded_eq], and
-[pre_loaded_fixed_non_byzantine_vlsm_full_projection],
-we introduce the following alternate definition to the
-[fixed_byzantine_trace_prop]erty, this time defined for (not necessarily valid)
-traces of the full composition, accepting any such trace as long as its
-projection to the non-byzantine nodes is indistinguishable from a projection
-of a valid trace of the composition of [fixed_byzantine_IM] under the
-[non_byzantine_not_equivocating_constraint].
+(**
+  The second fixed byzantine trace definition.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:493]: @traiansf Hmm, looks like this one should be a section header.

File: theories/VLSM/Core/Composition.v [hunk 4]
```diff
@@ -1222,7 +1226,8 @@ Proof.
 Qed.
 
 (* Transitioning on some index different from <<i>> does not affect
-   component i. *)
+   component i.
```
Comment (traiansf) [inline theories/VLSM/Core/Composition.v:1229]: maybe here it's not necessary to break line as we're in a regular comment.

File: theories/VLSM/Core/Equivocation.v [hunk 5]
```diff
@@ -216,216 +218,223 @@ Proof.
...
-  (oracle : state_message_oracle)
-  (s : state)
-  (m : message)
-  : Prop
-  :=
-  oracle s m <-> selected_message_exists_in_all_preloaded_traces message_selector s m.
+(**
+  We intend to give define several message oracles: [has_been_sent], [has_not_been_sent],
+      [has_been_received] and [has_not_been_received]. To avoid repetition, we give
+      build some generic definitions first. **)
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:224]: Or maybe we need to bother with them :-)

**Review by traiansf — COMMENTED** [review]
Seems there is still some work left with detecting endings where there is no space before `*)`, e.g., `**)` or things like `.*)`

File: theories/VLSM/Core/Composition.v [hunk 6]
```diff
@@ -58,7 +58,8 @@ Definition composite_label
    guess that a VLSMType should be composite_type instead of just
    failing, if it has to compare composite_state with state or
    vstate of an unsolved VLSMType or VLSM.
- *)
+
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/Composition.v:61]: Right, this newline should be avoided.

File: theories/VLSM/Core/Composition.v [hunk 7]
```diff
@@ -883,7 +883,8 @@ Ltac state_update_simpl :=
    [composite_constrained_projection_vlsm] is defined
    that shares the states of [IM i] which is more
    precise.
- *)
+
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:886]: Another newline that should be avoided.

File: theories/VLSM/Core/Composition.v (hunk 4 above)
Comment (palmskog) [reply theories/VLSM/Core/Composition.v:1229]: I agree, I think we should leave regular comments (starting with only `(*`) unaffected.

File: theories/VLSM/Core/Equivocation.v [hunk 8]
```diff
@@ -30,26 +30,27 @@ Class ReachableThreshold V `{Hm : Measurable V} :=
...
+
+  This allows us to determine the [equivocating_validators] for a given
+  state as those equivocating in that state.
+
+  The [equivocation_fault] is determined the as the sum of weights of the
+  [equivocating_validators].
+
+  We call a state [not_heavy] if its corresponding [equivocation_fault]
+  is lower than the [threshold] set for the <<validator>>s type.
 **)
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:54]: Ah, we should never end a comment with `**)`, maybe a script can fix this?

File: theories/VLSM/Core/Equivocation.v [hunk 9]
```diff
@@ -216,216 +218,223 @@ Proof.
...
+  Definition selected_messages_consistency_prop
+    (message_selector : message -> transition_item -> Prop)
+    (s : vstate vlsm)
+    (m : message)
+    : Prop
+    :=
+    selected_message_exists_in_some_preloaded_traces message_selector s m
+    <-> selected_message_exists_in_all_preloaded_traces message_selector s m.
+
+  Lemma selected_message_exists_in_all_traces_initial_state
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:340]: Not sure what's going on here, but maybe best if we leave regular code (outside of comments) alone with the script? Otherwise, it's going to be harder to review.

**Review by palmskog — COMMENTED** [review]
Some initial comments to consider, mostly I agree with @traiansf.

File: theories/VLSM/Core/ByzantineTraces.v [hunk 10]
```diff
@@ -206,19 +206,19 @@ Proof.
...
-
-First note that _all_ messages are [valid_message]s for <<Alt>>, as
-[emit_any_message_vlsm] can generate any message without changing state.
+  To prove the reverse inclusion (between <<PreLoaded>> and <<Alt1>>) we will use the
+  [basic_VLSM_incl] meta-result about proving inclusions between
+  VLSMs which states that
+  - if all [valid] messages in the first are [valid_message]s in the second, and
+  - if all [valid_state]s in the first are also [valid_state]s in the second,
+  - and if all [input_valid_transition]s in the first are also [input_valid_transition]s
+  in the second,
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces.v:215]: I'd say the second line of this should be indented more, but this is not a fault introduced by the script.

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 11]
```diff
@@ -7,10 +7,11 @@ From VLSM.Core Require Import Equivocation.FixedSetEquivocation Equivocation.Lim
...
 
-(** To allow capturing the two models of limited equivocation described in the
-    sections below, we first define a notion of limited equivocation parameterized
-    on a function yielding the set of equivocators induced by a received message,
-    other that the message sender.
+(**
+  To allow capturing the two models of limited equivocation described in the
+      sections below, we first define a notion of limited equivocation parameterized
+      on a function yielding the set of equivocators induced by a received message,
+      other that the message sender.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:14]: Too much indentation.

File: theories/VLSM/Core/Equivocation/NoEquivocation.v [hunk 12]
```diff
@@ -11,12 +11,13 @@ Context
   (vlsm : VLSM message)
   .
 
-(** An equivocating transition can be prevented by checking that the message
-    to be received [has_been_sent] previously in the state about to receive it.
+(**
+  An equivocating transition can be prevented by checking that the message
+      to be received [has_been_sent] previously in the state about to receive it.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/NoEquivocation.v:16]: Again.

File: theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v [hunk 13]
```diff
@@ -127,13 +129,14 @@ Proof.
...
+(**
+  An alternative definition for detecting equivocation in a certain state,
+      which checks that for _every_ valid trace (using any messages) reaching
+      that state there exists an equivocation involving the given validator.
 
-    Notably, this definition is not generally equivalent to [is_equivocating_statewise],
-    which does not verify the order in which receiving and sending occurred.
-**)
+      Notably, this definition is not generally equivalent to [is_equivocating_statewise],
+      which does not verify the order in which receiving and sending occurred.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v:138]: Not sure if I'm right, but this one is indented too much, isn't it?

File: theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v [hunk 14]
```diff
@@ -149,9 +152,10 @@ Definition is_equivocating_tracewise
   /\ input elem = Some m
   /\ ~has_been_sent (IM j) (lprefix j) m.
 
-(** A possibly friendlier version using a previously defined primitive.
-    Note that this definition does not require the [HasBeenSentCapability].
-**)
+(**
+  A possibly friendlier version using a previously defined primitive.
+      Note that this definition does not require the [HasBeenSentCapability].
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v:157]: Again.

File: theories/VLSM/Core/Composition.v [hunk 15]
```diff
@@ -726,23 +723,27 @@ Proof.
...
+    (Hs : composite_initial_state_prop s)
+    (i : index)
+    (si : vstate (IM i))
+    (Hsi : vinitial_state_prop (IM i) si)
+    : composite_initial_state_prop (state_update s i si).
+  Proof.
+    intro j. destruct (decide (j = i)); subst.
+    - by rewrite state_update_eq.
+    - by rewrite state_update_neq.
+  Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:740]: A whole lemma got indented!

File: theories/VLSM/Core/Composition.v [hunk 16]
```diff
@@ -726,23 +723,27 @@ Proof.
...
+
+  (**
+(**
+  Updating a composite [valid_state] for the free composition with
+  a component initial state yields a composite [valid_state] 
+*)
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:746]: A double `(**`.

File: theories/VLSM/Core/Composition.v [hunk 17]
```diff
@@ -726,23 +723,27 @@ Proof.
...
 Lemma pre_composite_free_update_state_with_initial
   (P : message -> Prop)
   (s : composite_state)
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:749]: A now it seems everything after that double `(**` is commented out, leading to parse errors.

File: theories/VLSM/Core/Equivocation.v [hunk 18]
```diff
@@ -61,19 +62,21 @@ Class BasicEquivocation
...
 
   ; equivocating_validators
       (s : state)
       : Cm
       := filter (fun v => is_equivocating s v) (state_validators s)
 
-     (** The equivocation fault sum: the sum of the weights of equivocating
-     validators **)
+     (**
+     The equivocation fault sum: the sum of the weights of equivocating
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:77]: @palmskog @traiansf @bmmoore Should doc comments be allowed to appear inside a `Class` definition? I think it makes more sense to have normal comments instead and a big doc comment at the top for the whole class.

File: theories/VLSM/Core/Equivocation.v [hunk 19]
```diff
@@ -216,11 +219,13 @@ Proof.
     + by exists tr, item, [].
 Qed.
 
-(** We intend to give define several message oracles: [has_been_sent], [has_not_been_sent],
-    [has_been_received] and [has_not_been_received]. To avoid repetition, we give
-    build some generic definitions first. **)
+(**
+  We intend to give define several message oracles: [has_been_sent], [has_not_been_sent],
+      [has_been_received] and [has_not_been_received]. To avoid repetition, we give
+      build some generic definitions first.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:225]: Too much indentation.

File: theories/VLSM/Core/Equivocation.v [hunk 20]
```diff
@@ -352,15 +356,17 @@ Proof.
...
-    messages.
-
-    Notably, the [valid_trace]s over which we are iterating belong to the preloaded
-    version of the target VLSM. This is because we want VLSMs to have oracles which
-    are valid irrespective of the composition they take part in. As we know,
-    the behavior preloaded VLSMs includes behaviors of its projections in any
-    composition. **)
+(**
+  Checks if all [valid_trace]s leading to a certain state contain a certain message.
+      The [message_selector] argument specifies whether we're looking for received or sent
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:361]: Again.

File: theories/VLSM/Core/Equivocation.v [hunk 21]
```diff
@@ -392,17 +398,19 @@ Definition has_been_received_prop : state_message_oracle -> state -> message ->
 Definition has_not_been_received_prop : state_message_oracle -> state -> message -> Prop
   := (no_traces_have_message_prop (field_selector input)).
 
-(** Per the vocabulary of the official VLSM document, we say that VLSMs endowed
-    with a [state_message_oracle] for sent messages have the [has_been_sent] capability.
-    Capabilities for receiving messages are treated analogously, so we omit mentioning
-    them explicitly.
+(**
+  Per the vocabulary of the official VLSM document, we say that VLSMs endowed
+      with a [state_message_oracle] for sent messages have the [has_been_sent] capability.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:403]: Again.

File: theories/VLSM/Core/Equivocation.v [hunk 22]
```diff
@@ -392,17 +398,19 @@ Definition has_been_received_prop : state_message_oracle -> state -> message ->
...
 
-    Notably, we also define the [has_not_been_sent] oracle, which decides if a message
-    has definitely not been sent, on any of the traces producing a current state.
+      Notably, we also define the [has_not_been_sent] oracle, which decides if a message
+      has definitely not been sent, on any of the traces producing a current state.
 
-    Furthermore, we require a [sent_excluded_middle] property, which stipulates
-    that any argument to the oracle should return true in exactly one of
-    [has_been_sent] and [has_not_been_sent]. **)
+      Furthermore, we require a [sent_excluded_middle] property, which stipulates
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:410]: And again...

File: theories/VLSM/Core/Equivocation.v [hunk 23]
```diff
@@ -479,8 +489,9 @@ Proof.
   by apply Exists_app; right; left.
 Qed.
 
-(** Sufficient condition for 'proper_sent' avoiding the
-'pre_loaded_with_all_messages_vlsm'
+(**
+  Sufficient condition for 'proper_sent' avoiding the
+  'pre_loaded_with_all_messages_vlsm'
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:494]: That's not a matter of the script, but the names here are improperly quoted (should be `[]` instead of `''`).

File: theories/VLSM/Core/Equivocation.v [hunk 24]
```diff
@@ -506,8 +517,9 @@ Proof.
   apply vlsm_incl_pre_loaded_with_all_messages_vlsm.
 Qed.
 
-(** 'proper_sent' condition specialized to regular vlsm traces
-(avoiding 'pre_loaded_with_all_messages_vlsm')
+(**
+  'proper_sent' condition specialized to regular vlsm traces
+  (avoiding 'pre_loaded_with_all_messages_vlsm')
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:522]: Again.

File: theories/VLSM/Core/Equivocation.v [hunk 25]
```diff
@@ -1642,18 +1654,18 @@ Qed.
 
 (** *** Equivocation in compositions
 
- We now move on to a composite context. Each component of our composition
-    will have [has_been_sent] and [has_been_received] capabilities.
+   We now move on to a composite context. Each component of our composition
+      will have [has_been_sent] and [has_been_received] capabilities.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1658]: It seems this one was badly indented from the beginning.

File: theories/VLSM/Core/Equivocation.v [hunk 26]
```diff
@@ -1816,8 +1830,10 @@ Qed.
 
 Section composite_has_been_received.
 
-(** A message 'has_been_received' for a composite state if it 'has_been_received' for any of
-its components.*)
+(**
+  A message 'has_been_received' for a composite state if it 'has_been_received' for any of
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1834]: Another improperly quoted name.

@traiansf Maybe we should have another PR for this?

File: theories/VLSM/Core/Equivocation.v [hunk 27]
```diff
@@ -1936,15 +1952,16 @@ Context
...
-    to produce that message
-
-    Weak/strong nontriviality say that each validator should
-    be designated sender for at least one/all its valid
-    messages.
-**)
+(**
+  Definitions for safety and nontriviality of the [sender] function.
+      Safety means that if we designate a validator as the sender
+      of a certain message, then it is impossible for other components
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1958]: Bad indentation.

File: theories/VLSM/Core/Equivocation.v [hunk 28]
```diff
@@ -1954,9 +1971,11 @@ Definition sender_safety_prop : Prop :=
          (Hdif : j <> A v),
          ~can_emit (pre_loaded_with_all_messages_vlsm (IM j)) m.
 
- (** An alternative, possibly friendlier, formulation. Note that it is
-     slightly weaker, in that it does not require that the sender
-     is able to send the message. **)
+ (**
+   An alternative, possibly friendlier, formulation. Note that it is
+       slightly weaker, in that it does not require that the sender
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1976]: Again.

File: theories/VLSM/Core/Equivocation.v [hunk 29]
```diff
@@ -2144,10 +2166,12 @@ Context
     {threshold_V : ReachableThreshold validator}
     `{FinSet validator Cm}
     .
-(** For the equivocation sum fault to be computable, we require that
-    our is_equivocating property is decidable. The current implementation
-    refers to [is_equivocating_statewise], but this might change
-    in the future **)
+(**
+  For the equivocation sum fault to be computable, we require that
+      our is_equivocating property is decidable. The current implementation
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:2171]: Again...

**Review by wkolowski — CHANGES_REQUESTED** [review]
Lots of faults.

File: theories/VLSM/Lib/ListExtras.v [hunk 30]
```diff
@@ -1346,7 +1351,8 @@ Proof.
 Qed.
 
 (* Computes the list pref which satisfies <<pref ++ suff = l>> or
-   reports that no such list exists. *)
+   reports that no such list exists. 
+*)
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Lib/ListExtras.v:1355]: Ah, this is another instance of a non-coqdoc comment.

**Review by palmskog — COMMENTED** [review]
This now looks quite good, but there are still two high-level issues:
- non-coqdoc comments (that do not begin with `(**`) are getting processed, while they should actually be ignored.
- some comments get too much indentation

File: theories/VLSM/Core/ByzantineTraces.v [hunk 31]
```diff
@@ -114,7 +114,7 @@ Definition all_messages_transition
 
 (**
```
Comment (traiansf) [inline theories/VLSM/Core/ByzantineTraces.v:116]: Probably it would be better to do it in a subsequent PR, but it would be nice to have a script removing extra blank lines ar the beginning and end on coqdoc comments.

File: theories/VLSM/Core/Equivocation.v [hunk 32]
```diff
@@ -61,19 +62,21 @@ Class BasicEquivocation
...
       (s : state)
       : Cm
       := filter (fun v => is_equivocating s v) (state_validators s)
 
-     (** The equivocation fault sum: the sum of the weights of equivocating
-     validators **)
+     (**
+       The equivocation fault sum: the sum of the weights of equivocating
+       validators 
+*)
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:79]: this one is left unindented.

File: theories/VLSM/Core/Equivocation.v [hunk 33]
```diff
@@ -392,17 +398,19 @@ Definition has_been_received_prop : state_message_oracle -> state -> message ->
...
-    them explicitly.
+(**
+  Per the vocabulary of the official VLSM document, we say that VLSMs endowed
+  with a [state_message_oracle] for sent messages have the [has_been_sent] capability.
+  Capabilities for receiving messages are treated analogously, so we omit mentioning
+  them explicitly.
 
-    Notably, we also define the [has_not_been_sent] oracle, which decides if a message
-    has definitely not been sent, on any of the traces producing a current state.
+      Notably, we also define the [has_not_been_sent] oracle, which decides if a message
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:407]: this one is indented too much; maybe we need an extra state for that automaton.

**Comment by DafinaTrufas** [comment]
I also noticed that there are still non-coqdoc comments modified by the script, so I'm trying to change the approach there.

File: theories/VLSM/Core/Equivocation.v [hunk 34]
```diff
@@ -1642,18 +1654,18 @@ Qed.
 
 (** *** Equivocation in compositions
 
- We now move on to a composite context. Each component of our composition
-    will have [has_been_sent] and [has_been_received] capabilities.
+  We now move on to a composite context. Each component of our composition
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:1657]: To be fixed in subsequent PRs.

File: theories/VLSM/Core/Validator.v [hunk 35]
```diff
@@ -752,15 +764,15 @@ End component_projection_validator.
 
 Section sec_component_projection_validator_alt.
 (**
-** Direct definition of induced validator from composition to component
+  ** Direct definition of induced validator from composition to component
```
Comment (traiansf) [inline theories/VLSM/Core/Validator.v:767]: Not a fault of this script, but this line needs to be merged into the previous.

**Review by traiansf — APPROVED** [review]
Looks good to me!

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 36]
```diff
@@ -1483,7 +1487,8 @@ Section sub_composition_element.
 
 (** ** Relating a sub-composition with one of its components
 
-*** A component can be lifted to a free subcomposition *)
+  *** A component can be lifted to a free subcomposition
+*)
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1491]: Not a fault of the script, but this looks suspicious.

File: theories/VLSM/Core/VLSM.v [hunk 37]
```diff
@@ -5,19 +5,19 @@ From VLSM.Lib Require Import Preamble ListExtras StreamExtras.
...
 (** * VLSM Basics
 
-This module provides basic VLSM infrastructure.
+  This module provides basic VLSM infrastructure.
 *)
 
 (** ** VLSM definition
 
-*** The type of a VLSM
+  *** The type of a VLSM
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:13]: @palmskog @bmmoore @traiansf Is it even legal to put subheaders in places like this?

File: theories/VLSM/Core/VLSM.v [hunk 38]
```diff
@@ -989,16 +986,17 @@ Definition finite_valid_trace (s : state) (ls : list transition_item) : Prop :=
...
-(** This is a bit more useful than the small proof suggests,
-    because applying it always leaves just one subgoal.
-    The tactical <<split;[constructor;apply initial_state_is_valid|];assumption>>
-    only works if the assumption is available, which may require
-    an <<assert>> and writing out the full VLSM and state expressions
-    as part of the proof script.
+(**
+  This is a bit more useful than the small proof suggests,
+  because applying it always leaves just one subgoal.
+  The tactical <<split;[constructor;apply initial_state_is_valid|];assumption>>
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:996]: Mentioning `assumption` in the comment seems outdated, as we don't use `assumption` anymore.

File: theories/VLSM/Core/VLSM.v [hunk 39]
```diff
@@ -1821,9 +1823,9 @@ Qed.
 
 (** *** valid traces
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:1824]: The header should probably start with an uppercase letter.

File: theories/VLSM/Lib/ListSetExtras.v [hunk 40]
```diff
@@ -559,21 +562,22 @@ Proof.
...
-    because <<length>> of <<filter>> can be simplified
-    step by step while doing induction over <<l>>.
+(**
+  An alternative to [set_diff].
+  Unlike [set_diff], the result may contain
+  duplicates if the first argument list <<l>> does.
+
+  This definition exists to make proving
+  [len_set_diff_decrease] more convenient,
+  because <<length>> of <<filter>> can be simplified
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListSetExtras.v:572]: Not related to this PR, but

```suggestion
  because [length] of [filter] can be simplified
```

**Review by wkolowski — APPROVED** [review]
Looks pretty good.

File: theories/VLSM/Core/VLSM.v (hunk 37 above)
Comment (bmmoore) [reply theories/VLSM/Core/VLSM.v:13]: Yes. The start of a coqdoc comment isn't treated differently, it just translates any markup inside.

**Comment by bmmoore** [comment]
Maybe this should actually include non-coqdoc comments? If we have a style for multiline comments we should probably also follow it for non-coqdoc comments.

**Comment by palmskog** [comment]
My view: best to skip modifying regular comments this time. But we should think about whether we *should* have regular comments and for what. For example:

- only use regular comments for one-liners
- only use regular comments inside proofs to explain proof steps or for dev-internal communication (TODO, gotcha, etc.)
